US06828446B2
5-chloro-6-{[(4-methyl-2-nitrophenyl)thio]methyl}-1,3-benzodioxole
1-bromo-4-methyl-2-nitrobenzene (3 mmol) dissolved in DMF (3 mL) was combined with a solution of sodium sulfide nonahydrate (3 mmol) in water 3 (mL) and stirred for 48 hours. A solution of 5-chloro-6-(chloromethyl)-1,3-benzodioxole (3 mmol) in ethyl acetate (5 mL) was added in and the reaction was agitated for another 24 hours. The reaction was diluted with ethyl acetate and washed sequentially with 0.5 N NaOH solution (7 mL×1), water (7 mL×3) and brine (7 mL×1). The solvent was removed under a stream of nitrogen and the residue crystallized from a mix of dichloromethane and hexane.

reactant | 1-bromo-4-methyl-2-nitrobenzene | 3 mmol | BrC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | sodium sulfide nonahydrate | 3 mmol | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 5-chloro-6-(chloromethyl)-1,3-benzodioxole | 3 mmol | ClC1=CC2=C(OCO2)C=C1CCl | C8H6Cl2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-6-{[(4-methyl-2-nitrophenyl)thio]methyl}-1,3-benzodioxole | ClC1=CC2=C(OCO2)C=C1CSC1=C(C=C(C=C1)C)[N+](=O)[O-] | C15H12ClNO4S
